US08119686B2
To a solution of 2,6-di-t-butyl-4-mercaptophenol (3.00 g, 12.6 mmol) in methanol (10 mL) was added cycloheptanone (1.63 mL, 13.8 mmol) and a catalytic amount of concentrated hydrochloric acid. The mixture was stirred at a room temperature overnight. The generated precipitate was separated by a filtration and dried to give objective bis(3,5-di-t-butyl-4-hydroxyphenylthio)cycloheptane (yield 2.74 g and 76%).

reactant | 2,6-di-t-butyl-4-mercaptophenol | 12.6 mmol, 3.00 g | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | cycloheptanone | 13.8 mmol, 1.63 mL | C1(CCCCCC1)=O | C7H12O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | bis(3,5-di-t-butyl-4-hydroxyphenylthio)cycloheptane | yield 2.74 g, 76% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC1(CCCCCC1)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C35H54O2S2
